US07354917B2
(i) 1-Benzyl-1-(2-hydroxy-ethyl)-3-methyl-urea
A mixture of N-benzyl ethanolamine (3 g, 0.0198 mol) and N,N′-dimethyl urea was stirred at 130° C. overnight. The reaction mixture was cooled to RT and the crude product was purified by column chromatography over silica gel using 3% methanol in dichloromethane as eluent to yield 3.5 g of the sub-title compound as a liquid.

reactant | N-benzyl ethanolamine | 0.0198 mol, 3 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | N,N′-dimethyl urea | CNC(=O)NC | C3H8N2O
product | 1-Benzyl-1-(2-hydroxy-ethyl)-3-methyl-urea | 3.5 g | C(C1=CC=CC=C1)N(C(=O)NC)CCO | C11H16N2O2
